US04946855
A mixture, obtained oy adding dry DMF (0.197 ml, 2.63 mmol) and then thionyl chloride (0.192 ml, 2.63 mmol) to dry benzene (1 ml) under ice-cooling, was allowed to warm up to room temperature and to react for 10 minutes upon which the mixture separated into two layers. The lower layer was added dropwise to dipotassium salt of 1H-tetrazole-5-carboxylic acid (333 mg, 1.75 mmol) suspended in dry acetonitrile (5 ml) under ice-cooling. The mixture was allowed to react for 15 minutes. After adding dropwise a mixed solution of 2-(3-pyridyl)4-thiazolamine (330 mg, 1.86 mmol) in dry acetonitrile (3 ml) and dry pyridine (1 ml) under the same conditions, the mixture was allowed to warm up to room temperature and to react for 1 hour. After dissolution was effected with addition of water, the reaction mixture was neutralized under ice-cooling with 2N-HCl to pH 7. The deposited solids were filtered with suction, was recrystallized from methanol-THF-water to give yellow crystals (181 mg, yield 38%) of N-(2-(3-pyridyl)-4-thiazolyl)-1H-tetrazole-5-carboxamide (Ia-23), m.p. 263°-265° C.

reactant | DMF | 2.63 mmol, 0.197 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 2.63 mmol, 0.192 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1H-tetrazole-5-carboxylic acid | 1.75 mmol, 333 mg | N1N=NN=C1C(=O)O | C2H2N4O2
reactant | 2-(3-pyridyl)4-thiazolamine | 1.86 mmol, 330 mg | N1=CC(=CC=C1)C=1SC=C(N1)N | C8H7N3S
reactant | HCl | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | benzene | 1 ml | C1=CC=CC=C1 | C6H6
product | N-(2-(3-pyridyl)-4-thiazolyl)-1H-tetrazole-5-carboxamide | 181 mg, yield 38% | N1=CC(=CC=C1)C=1SC=C(N1)NC(=O)C1=NN=NN1 | C10H7N7OS
